US07232821B2
5-[2-(2-Benzyloxy-5-chlorophenyl)-cyclopent-1-enyl]-3-isobutyrylaminobenzoic acid methyl ester
Prepared by general procedure E but using 5-[2-(2-benzyloxy-5-chlorophenyl)-cyclopent-1-enyl]-3-aminobenzoic acid methyl ester instead of 5-[2-(2-benzyloxy-5-chlorophenyl)-cyclopent-1-enyl]-2-aminobenzoic acid methyl ester and 2-methylpropionyl chloride instead of propionyl chloride.

reactant | 5-[2-(2-benzyloxy-5-chlorophenyl)-cyclopent-1-enyl]-3-aminobenzoic acid methyl ester | COC(C1=CC(=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1)N)=O | C26H24ClNO3
reactant | 2-methylpropionyl chloride | CC(C(=O)Cl)C | C4H7ClO
product | 5-[2-(2-Benzyloxy-5-chlorophenyl)-cyclopent-1-enyl]-3-isobutyrylaminobenzoic acid methyl ester | COC(C1=CC(=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1)NC(C(C)C)=O)=O | C30H30ClNO4
